US03952031
2β-Chloro-3α-hydroxy-5α-pregn-16-en-20-one
2α,3α-Epoxy-5α-pregn-16-en-20-one (500 mg.) was dissolved in methylene chloride (15 ml.) and concentrated hydrochloric acid (12 ml.) was added. The mixture was shaken for 20 minutes, and then poured into water (100 ml.) and chloroform (100 ml.). The organic layer was separated, washed well with water, dried over sodium sulphate and evaporated to an oil. Recrystallisation from ethyl acetate gave title compound (447 mg.) as colourless crystals, m.p. 246°-252° , [α]D (c, 1.10)+ 65.8° , λmax. (EtOH) 239 nm (ε 8770).

reactant | 2α,3α-Epoxy-5α-pregn-16-en-20-one | 500 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC[C@@H]3[C@]1(C2)C)C | C21H30O2
reactant | hydrochloric acid | 12 ml | Cl | ClH
reactant | water | 100 ml | O | H2O
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 2β-Chloro-3α-hydroxy-5α-pregn-16-en-20-one | 447 mg | Cl[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC[C@@H]3[C@]2(C1)C)C)O | C21H31ClO2
